US05972965
To a solution of 2-((1S)-1,2-dihydroxyethyl)-4,5-diphenyloxazole (20 g) in CH2Cl2 (400 ml) were added orthoacetic acid trimethyl ester (12.8 ml) and p-toluenesulfonic acid (130 mg) at room temperature under N2, After being stirred for 30 minutes, the solvent was evaporated in vacuo. The residue was diluted with CH2Cl2 (200 ml) and acetyl bromide (7.6 ml) was added to the solution at 0° C. under N2. After being stirred for 2 hours at room temperature, the solvent was evaporated in vacuo, the residue was diluted with methanol (200 ml), and K2CO3 (16 g) was added to the solution at 0° C. The mixture was stirred for 30 minutes at the same temperature and partitioned between ethyl acetate and water. The organic layer was washed with 1N-HCl, water, sat. NaHCO3 and brine. The dried solvent was evaporated in vacuo and the residue was purified by trituration with ether-hexane to give (2S)-2-(4,5-diphenyloxazol-2-yl)oxirane (14.2 g). MS (m/z): 264 (M+ +1) IR (Neat): 1460 cm-1NMR (CDCl3, δ): 3.23 (1H, dd, J=4.0, 5.6 Hz), 3.43 (1H, dd, J=2.6, 5.6 Hz), 4.08 (1H, dd, J=2.6, 4.0 Hz), 7.2-7.6 (10H, m) HPLC; chiralcel OD, 10% isopropanol/hexane, 11.3 ml/min

reactant | 2-((1S)-1,2-dihydroxyethyl)-4,5-diphenyloxazole | 20 g | O[C@@H](CO)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C17H15NO3
reactant | orthoacetic acid trimethyl ester | 12.8 ml | COC(C)(OC)OC | C5H12O3
reactant | p-toluenesulfonic acid | 130 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | CH2Cl2 | 400 ml | C(Cl)Cl | CH2Cl2
product | (2S)-2-(4,5-diphenyloxazol-2-yl)oxirane | 14.2 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)[C@H]1OC1 | C17H13NO2
